US04668615
To 400 ml of ether were added 15 g of magnesium (flaked) and 3.2 g of iodine. 27.9 g of triphenylchloromethane was carefully added thereto and the mixture was refluxed by heating for 3 hours. To the reaction solution was gradually added a large excess of dry ice. The reaction solution was acidified with hydrochloric acid and then extracted with ethyl acetate. After distilling off the solvent, the crystals thus obtained were recrystallized from ethanol to obtain 16.5 g of triphenylacetic acid. The melting point was 258° to 260° C. (decomposed).

reactant | magnesium | 15 g | [Mg] | Mg
reactant | iodine | 3.2 g | II | I2
reactant | triphenylchloromethane | 27.9 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 400 ml | CCOCC | C4H10O
product | triphenylacetic acid | 16.5 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
